US06492383B1
6-[7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-pyridine-2-carboxylic Acid Methyl Ester
The title compound was prepared from 6-(7-chloro-thieno[3,2-b]pyridin-2-yl)-pyridine-2-carboxylic acid methyl ester and 2-methyl-5-aminoindole by the procedure analogous to example 148(c) above. 1H NMR (400 MHz, CD3OD) δ8.43 (d, 1H), 8.22 (s, 1H), 8.18 (d, 1H), 8.11 (t, 1H), 8.02 (d, 1H), 7.26 (m, 2H), 6.92 (d, 1H), 6.59 (d, 1H), 6.10 (s, 1H), 3.89 (s, 3H), 2.36 (s, 3H); RP18-HPLC RT: 5.34 minutes; API MS: 415 (M+1).

reactant | 6-(7-chloro-thieno[3,2-b]pyridin-2-yl)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1)C1=CC2=NC=CC(=C2S1)Cl | C14H9ClN2O2S
reactant | 2-methyl-5-aminoindole | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | 6-[7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-pyridine-2-carboxylic Acid Methyl Ester | COC(=O)C1=NC(=CC=C1)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C23H18N4O2S
